US06660871B2
Synthesis of HA14-1
To a suspension of the 5-bromosalicylaldehyde (0.010 mol) in dry ethyl alcohol (30 ml) was added ethyl cyanoacetate (0.022 mol) and 3.0 grams of molecular sieve 3Å powder (Aldrich Chemical Company). The resulting mixture was stirred at room temperature overnight (14 h). Most of the 5-bromosalicylaldehyde disappeared within the first 2 hours as layer chromatography (TLC). The molecular sieve was then filtered off and washed 3 times with tetrahydrofuran. The filtrates were combined and the solvent was removed under vacuum. The residue solidified when incubated at −24° for 2 hours. The desired product was obtained by crystallization in 85% ethanol as a single diastereoisomeric pair. The yield was 86%.

reactant | 5-bromosalicylaldehyde | 0.010 mol | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | ethyl cyanoacetate | 0.022 mol | C(#N)CC(=O)OCC | C5H7NO2
solvent | ethyl alcohol | 30 ml | C(C)O | C2H6O
product | HA14-1 | yield was 86% | CCOC(=O)C1=C(OC2=C(C1C(C#N)C(=O)OCC)C=C(C=C2)Br)N | C17H17BrN2O5
